US06303789B1
A8. 3-(4-Benzyloxytetrahydrofuran-3-yloxy)-4-methoxybenzonitrile
2.5 g (11.0 mmol) of 3-(4-hydroxytetrahydrofuran-3-yloxy)-4-methoxybenzonitrile (A 15) in 12 ml of dimethylformamide are added dropwise under a nitrogen atmosphere to a solution of 350 mg (12.0 mmol) of sodium hydride in 12 ml of dimethylformamide and the mixture is heated at 40° C. for 1 h. 1.6 ml (13.0 mmol) of benzyl chloride, dissolved in 6 ml of dimethylformamide, are then added dropwise at RT. The mixture is stirred at RT for 4 h. concentrated, treated with 50 ml of water and acidified with 2 N hydrochloric acid. After extraction with 3×40 ml of ethyl acetate, the combined organic phases are washed with saturated sodium chloride solution, dried over magnesium sulfate and concentrated. For further purification, the product is chromatographed on silica gel [toluene/ethyl acetate=4:1]. The product-containing fractions are concentrated and the residue is crystallized from isopropanol. 3.05 g of the title compound of m.p. 72-75° C. are obtained.

reactant | 3-(4-hydroxytetrahydrofuran-3-yloxy)-4-methoxybenzonitrile | 11.0 mmol, 2.5 g | OC1C(COC1)OC=1C=C(C#N)C=CC1OC | C12H13NO4
reactant | sodium hydride | 12.0 mmol, 350 mg | [H-].[Na+]
reactant | benzyl chloride | 13.0 mmol, 1.6 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-(4-Benzyloxytetrahydrofuran-3-yloxy)-4-methoxybenzonitrile | 3.05 g | C(C1=CC=CC=C1)OC1C(COC1)OC=1C=C(C#N)C=CC1OC | C19H19NO4
